US06355653B1
A mixture of 0.29 g (0.001 mol) 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine and 1.13 ml(0.014 mol) pyridine in 30 ml dichloromethane was stirred with 0.63 g(0.003 mol) p-trifluoromethyl benzoyl chloride for 18 hours at room temperature. Then another 0.63 g(0.003 mol) p-trifluoromethyl benzoyl chloride were added and stirring was continued at reflux temperature for 48 hours. After extraction with aqueous sodium hydroxide the organic solvents were distilled off and the residue was recrystallised from methanol to yield 0.28 g(60%) N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-4-trifluoromethyl-benzamide as white crystals. MS m/e (%): 460 (M+H+, 100).

reactant | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.001 mol, 0.29 g | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
reactant | pyridine | 0.014 mol, 1.13 ml | N1=CC=CC=C1 | C5H5N
reactant | p-trifluoromethyl benzoyl chloride | 0.003 mol, 0.63 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | p-trifluoromethyl benzoyl chloride | 0.003 mol, 0.63 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-4-trifluoromethyl-benzamide | 0.28 g, 60% | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2NC(C2=CC=C(C=C2)C(F)(F)F)=O)C2=CC=NC=C2)=N1 | C25H16F3N5O
